US05563162
To a stirred solution of 8-[3-[N-[4-(bromobutyramido)cinnamoylglycyl]-N-methylamino]-2,6dichlorobenzyloxy]-2-methylquinoline (50 mg) in N,N-dimethylformamide was added potassium carbonate (30 mg) at ambient temperature and the resulting mixture was stirred at the same temperature for 16 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was removed in vacuo and the residue was purified by preparative thin layer chromatography (methanol-ethyl acetate=1:12, V/V) to afford 8-[2,6-dichloro-3-[N-methyl-N-[4-(2-oxo-1-pyrrolidinyl)cinnamoylglycyl]amino]benzyloxy]-2-methylquinoline (33.4 mg) as an amorphous solid.

reactant | 8-[3-[N-[4-(bromobutyramido)cinnamoylglycyl]-N-methylamino]-2,6dichlorobenzyloxy]-2-methylquinoline | 50 mg | BrCCCC(=O)NC1=CC=C(C=CC(=O)NCC(=O)N(C)C=2C(=C(COC=3C=CC=C4C=CC(=NC34)C)C(=CC2)Cl)Cl)C=C1 | C33H31BrCl2N4O4
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-[4-(2-oxo-1-pyrrolidinyl)cinnamoylglycyl]amino]benzyloxy]-2-methylquinoline | 33.4 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)N1C(CCC1)=O)=O)=O)C)Cl | C33H30Cl2N4O4
